2126-07-06 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2126-7-5**] 07:00 PM
 MULTI LUMEN - START [**2126-7-5**] 08:00 PM
 ERCP - At [**2126-7-5**] 08:30 PM
 OR SENT - At [**2126-7-5**] 11:00 PM
 INVASIVE VENTILATION - START [**2126-7-6**] 12:11 AM
 OR RECEIVED - At [**2126-7-6**] 12:40 AM
 BRONCHOSCOPY - At [**2126-7-6**] 01:05 AM
 BLOOD CULTURED - At [**2126-7-6**] 05:30 AM
 URINE CULTURE - At [**2126-7-6**] 05:40 AM
 FEVER - 101.1
F - [**2126-7-6**] 04:00 AM
   - a-line placed
   - tachypnea, requiring face mask, SOB
   - surgery evaluated pt for increased abd pain, changed to fentanyl at
   5pm
   - was intubated and had central line placed due to tachypnea
   - Had ERCP without findings
   - abd distended and was febrile with lipase climbing to 400s- went to
   OR, nothing found, then lipase up to >1000
   - had bronch, concern for PNA, cx sent, BAL done
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2126-7-5**] 11:16 AM
   Vancomycin - [**2126-7-5**] 12:46 PM
   Metronidazole - [**2126-7-6**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2126-7-5**] 12:45 PM
   Meperidine (Demerol) - [**2126-7-5**] 02:14 PM
   Midazolam (Versed) - [**2126-7-5**] 07:10 PM
   Fentanyl - [**2126-7-6**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-6**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 115 (77 - 115) bpm
   BP: 136/70(93) {96/48(62) - 148/83(108)} mmHg
   RR: 16 (10 - 21) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
    CVP: 20 (20 - 26)mmHg
   Total In:
                                                                  6,758 mL
                                                                    700 mL
   PO:
   TF:
   IVF:
                                                                  5,095 mL
                                                                    663 mL
   Blood products:
                                                                    663 mL
                                                                     38 mL
   Total out:
                                                                    768 mL
                                                                    820 mL
   Urine:
                                                                    768 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,990 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 35 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.34/43/106/20/-2
   Ve: 7.4 L/min
   PaO2 / FiO2: 265
   Physical Examination
   100.3   108/50   103   17   96% on 40% face mask
   Sleepy but rousable with some effort.  Oriented to family, place, and
   year.
   Face symmetric, Pupils equal but small b/l.  No scleral icterus.
   OP clear.  MMM.
   Neck supple, no thyroid enlargement or adenopathy.
   S1, S2, regular tachycardia, +2/6 systolic murmur at apex.  No rub.
   Decreased breath sounds at bases with bronchial breath sounds at right
   base.  + expiratory wheeze.
   Tender throughout her abdomen, especially at RUQ.  +peritoneal signs
   with rebound and guarding present.  Bowel sounds are present.
   Able to move all her extremities with significant urging.  No tremor.
   Finger grip intact b/l.
   No LE edema b/l.  DP+1 b/l.
   No rash.
   EKG:  NSR at 92 with normal axis and intervals.  No evidence of
   ischemia.  No change from baseline on [**6-28**].
   Labs / Radiology
   235 K/uL
   11.0 g/dL
   102 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.2 mEq/L
   27 mg/dL
   106 mEq/L
   136 mEq/L
   32.6 %
   8.1 K/uL
        [image002.jpg]
                             [**2126-7-5**]  05:58 PM
                             [**2126-7-5**]  06:21 PM
                             [**2126-7-5**]  07:20 PM
                             [**2126-7-5**]  08:21 PM
                             [**2126-7-5**]  10:40 PM
                             [**2126-7-5**]  11:45 PM
                             [**2126-7-5**]  11:56 PM
                             [**2126-7-6**]  03:45 AM
                             [**2126-7-6**]  04:07 AM
                             [**2126-7-6**]  05:34 AM
   WBC
   9.9
   8.4
   8.1
   Hct
   25.8
   25.6
   30.1
   31
   32.6
   Plt
   [**Telephone/Fax (3) 6625**]
   Cr
   2.7
   1.6
   TCO2
   23
   23
   23
   23
   24
   24
   Glucose
   101
   102
   102
   Other labs: PT / PTT / INR:12.0/25.3/1.0, ALT / AST:87/77, Alk Phos / T
   Bili:70/1.1, Amylase / Lipase:[**Telephone/Fax (1) 6626**], Differential-Neuts:86.0 %,
   Lymph:8.3 %, Mono:5.0 %, Eos:0.5 %, Lactic Acid:0.5 mmol/L, LDH:216
   IU/L, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   63yo woman admitted after open cholecystectomy and transferred to the
   ICU in the setting of persistent post-op pain, hypoxia, and decreased
   urine output.
   # Leukocytosis and fever:
   CXR suggestive of infection.  Given history of recent emesis, may have
   been from aspiration, although she was coughing even before her
   procedure.  Would also be concerned about possible abdominal sources of
   infection given persistent, severe post-op pain.
   - cover with vanc/levo/flagyl for now
   - appreciate surgery's input
   - follow closely with serial abdominal exams; surgery is en route to
   reassess patient
   - consider obtaining CT abdomen vs bringing patient back to OR after
   discussing case with surgery and monitoring her clinically
   - follow serial lactate (currently not elevated)
   - f/u urine, sputum and blood cultures
   - f/u viral cultures; on respiratory precautions for now
   # Acute renal failure:
   Likely prerenal.  Will give IV fluids and monitor urine output.  In the
   meantime, will check urine lytes and renally dose all medications.
   Finally, will avoid renally toxic meds such as her home ibuprofen and
   lisinopril.
   # Altered mental status:
   Likely from narcotic pain medications, but also will need monitoring
   for hypercarbic respiratory failure.  Alternatively, altered mental
   status may be a sign of developing sepsis.
   - minimize narcotic medications
   - monitor ABG and consider CPAP vs intubation if retaining CO2
   - frequent reorientation
   - avoid sedating meds
   # Respiratory acidosis:
   [**Month (only) 11**] be due to underlying OSA/chronic hypoventilation vs decreased
   respiratory drive while on narcotics.
   - place A-line to monitor ABGs closely
   - may need CPAP vs intubation
   # Pain control:
   - demerol has been effective for her in the past, so will try demerol
   per surgery's recommendation
   - pt declined epidural
   - concern for severe abdominal tenderness/peritoneal signs as discussed
   above
   # Anemia:  baseline Hct 36, current Hct 29
   - monitor serial Hct to confirm she is not actively bleeding
   - check hemolysis labs
   - active type and screen
   # HTN:
   - hold home BP meds for now
   # Hypothyroidism:  continue levothyroxine
   # OSA:  CPAP at night if not intubated
   # ADD:  hold adderall
   # FEN:  NPO; IV fluids as above
   # PPx:  subQ heparin; famotidine
   # Access:  PIVs; will likely need art line and central line
   # Code:  FULL (confirmed with HCP)
   # Comm:  with surgery ([**Name (NI) **] [**Name (NI) **] [**Numeric Identifier 6619**]) and family (daughter [**Name (NI) 6620**]
   is HCP [**Telephone/Fax (1) 6621**])
   # Dispo:  ICU pending improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2126-7-5**] 12:55 PM
   20 Gauge - [**2126-7-5**] 12:55 PM
   Arterial Line - [**2126-7-5**] 07:00 PM
   Multi Lumen - [**2126-7-5**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: